US03947470
3-[4-(3-Di-n-butylaminopropoxy)benzoyl]-2-phenylbenzofuran
A mixture of 2.0 g. (6.4 mmol.) of 3-(4-hydroxybenzoyl)-2-phenylbenzofuran, 1.3 g. (6.4 mmol.) of 3-di-n-butylaminopropyl chloride and 4.0 g. (0.04 mol.) of anhydrous potassium carbonate in 20 ml. of dry 2-butanone is refluxed for 18 hours. The reaction is cooled, water and ether are added and the layers are separated. The organic phase is extracted with 10% aqueous sodium hydroxide and the aqueous layers are combined and extracted again with water. The combined ether extracts are concentrated under reduced pressure to give the title compound.

reactant | 3-(4-hydroxybenzoyl)-2-phenylbenzofuran | 6.4 mmol | OC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C21H14O3
reactant | 3-di-n-butylaminopropyl chloride | 6.4 mmol | C(CCC)N(CCCCl)CCCC | C11H24ClN
reactant | potassium carbonate | 0.04 mol | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | CC(CC)=O | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-[4-(3-Di-n-butylaminopropoxy)benzoyl]-2-phenylbenzofuran | C(CCC)N(CCCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1)CCCC | C32H37NO3
